US07449475B2
(iii) 6-Chloro-3H-spiro[2-benzofuran-1,4′-piperidine]
To a solution of 1′-benzyl-6-chloro-3H-spiro[2-benzofuran-1,4′-piperidine] (850 mg, 2.7 mmol) in dichloromethane (CH2Cl2) (8 mL) was added chloroethyl chloroformate (Yang, B. V; o'Rourke, D; Li, J., Synlett, 1993, 195-196) (772 mg, 5.4 mmol) slowly at 0° C. After addition was complete the reaction mixture was stirred at 0° C. for 30 min. The volatiles were removed in vacuo, residue was dissolved in methanol (10 mL) and kept at reflux for 40 min. The volatiles were removed in vacuo and the residue was purified by silica gel flash chromatography (0-6% methanol in dichloromethane, 0.2% ammonium hydroxide (NH4OH)) to give the titled compound (170 mg) and 1′-benzyl-6-chloro-3H-spiro[2-benzofuran-1,4′-piperidine] was recovered (200 mg).

reactant | 1′-benzyl-6-chloro-3H-spiro[2-benzofuran-1,4′-piperidine] | 2.7 mmol, 850 mg | C(C1=CC=CC=C1)N1CCC2(CC1)OCC1=C2C=C(C=C1)Cl | C19H20ClNO
reactant | chloroethyl chloroformate | 5.4 mmol, 772 mg | ClC(=O)OCCCl | C3H4Cl2O2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 6-Chloro-3H-spiro[2-benzofuran-1,4′-piperidine] | 170 mg | ClC=1C=CC2=C(C1)C1(CCNCC1)OC2 | C12H14ClNO
